US07897607B2
5-(2,4-Dimethylphenyl)-3-methyl-1-(1-propylbutyl)cinnolin-4(1H)-one
To 0.041 g (0.16 mmol) of 5-(2,4-dimethylphenyl)-3-methylcinnolin-4(1H)-one in 0.5 mL of N-methylpyrrolidine was added 0.069 mL of 4-bromoheptane and 0.012 g (0.31 mmol) of sodium hydride (60% dispersion in mineral oil). The mixture was stirred for 75 min. at room temperature and quenched with water. The mixture was extracted with ethyl acetate and the combined organics were washed with water and brine, dried over sodium sulfate, filtered and concentrated. The residue was purified by flash chromatography eluting with a 8% ethyl acetate/hexanes mixture to give 0.042 g (75%) of the title compound as a light green-yellow semisolid.

reactant | 5-(2,4-dimethylphenyl)-3-methylcinnolin-4(1H)-one | 0.16 mmol, 0.041 g | CC1=C(C=CC(=C1)C)C1=C2C(C(=NNC2=CC=C1)C)=O | C17H16N2O
reactant | 4-bromoheptane | 0.069 mL | BrC(CCC)CCC | C7H15Br
reactant | sodium hydride | 0.31 mmol, 0.012 g | [H-].[Na+]
solvent | N-methylpyrrolidine | 0.5 mL | CN1CCCC1 | C5H11N
product | 5-(2,4-Dimethylphenyl)-3-methyl-1-(1-propylbutyl)cinnolin-4(1H)-one | 0.042 g, 75% | CC1=C(C=CC(=C1)C)C1=C2C(C(=NN(C2=CC=C1)C(CCC)CCC)C)=O | C24H30N2O
